US07476666B2
Step 2: Methyl 3-hydroxy-5,7-dimethyl-4-oxo-4,5-dihydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of methyl 3-benzyloxy-5,7-dimethyl-4-oxo-4,5-dihydropyrazolo[1,5-a]pyrazine-2-carboxylate (62 mg, 0.189 mmol) in CHCl3 was added TFA (200 μL), and the reaction was stirred at room temperature for 2 hours. Following treatment with additional TFA (200 μL), the reaction was heated to 50° C. overnight. The solvent was removed in vacuo, and the resulting residue was purified by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions afforded the title product as a white solid. 1H NMR (400 MHz, d6-DMSO) δ 6.44 (s, 1H), 4.03 (s, 3H), 3.48 (s, 3H), 2.44 (s, 3H); ES MS (M+Na)=260.

reactant | methyl 3-benzyloxy-5,7-dimethyl-4-oxo-4,5-dihydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.189 mmol, 62 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(C=C2C)C)=O)C(=O)OC | C17H17N3O4
reactant | TFA | 200 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 200 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-hydroxy-5,7-dimethyl-4-oxo-4,5-dihydropyrazolo[1,5-a]pyrazine-2-carboxylate | OC=1C(=NN2C1C(N(C=C2C)C)=O)C(=O)OC | C10H11N3O4
